US04366096
(i) Manganous Chloride Hydrate - Urea Solution
In a 10 liter kettle is added 1005 g. (5.08 mole) manganous chloride tetrahydrate, 3600 g. (60.0 moles) urea, and 1800 g. (100 moles) water and warmed to 35° C. with stirring to dissolve to a clear pink solution of pH 7.3. To this is added 168 g. (1.68 mole) 36.5% hydrochloric acid and 233 g. (12.9 moles) water to yield 6806 g. of solution of pH 1.5.

reactant | manganous chloride tetrahydrate | 5.08 mole | O.O.O.O.[Mn](=O)(Cl)Cl
reactant | urea | 60.0 moles | NC(=O)N | CH4N2O
reactant | water | 100 moles | O | H2O
reactant | hydrochloric acid | 1.68 mole | Cl | ClH
reactant | water | 12.9 moles | O | H2O
product | Manganous Chloride Hydrate Urea | O.[Mn](=O)(Cl)Cl.NC(=O)N | InChI=1S/CH4N2O.2ClH.Mn.H2O.O/c2-1(3)4;;;;;/h(H4,2,3,4);2*1H;;1H2;/q;;;+2;;/p-2
